US06147214
4'-Trifluormethyl-biphenyl-2-carboxylic acid(3-formyl-phenyl)amide
A 250 mL round bottom flask was charged with 3-nitrobenzaldehyde (5.20 g, 34.4 mmol), 100 mL methanol, and Dowex® sulfonic acid resin (e.g., Dowex 50WX4-400, Aldrich catalogue number 21-784-4) in its H+ form (0.57 g), washed with two 5 mL portions of methanol and added as a slurry in 5 mL of methanol. The resulting slurry was heated at reflux for 90 minutes, then stirred overnight at ambient temperature (1H NMR analysis of an aliquot showed a 95:5 ratio of the dimethyl acetal to starting aldehyde). The resin was removed by filtration, and the filtrate concentrated to a pale yellow oil. The acetal was dissolved in 100 mL THF and 10% Pd/C was added (0.52 g). The mixture was placed in a Parr® hydrogenator under 276 kPa (40 psi) hydrogen pressure). After 90 minutes, and three recharges of hydrogen, the pressure of hydrogen held steady and the reaction vessel mixture was purged with nitrogen. The catalyst was removed by filtration through Celite®, and rinsed with four 50 mL portions of THF. The filtrate was treated with triethylamine (10.6 mL, 76 mmol) followed by 4'-trifluoromethyl-biphenyl-2-carboxylic acid chloride (9.8 g, 34 mmol) added, as a solution in 10 mL THF, dropwise over 15 minutes. The resulting slurry was stirred for 20 hours at ambient temperature. 1 N HCl (aqueous) (100 mL) was then added and the mixture was stirred vigorously for 2 hours. The bulk of the THF was then removed on a rotary evaporator. The aqueous layer was extracted with three 50 mL portions of isopropyl ether/ethyl acetate (3:1 v/v). The combined organic extracts were washed twice with 1 N HCl [aq], two times with saturated aqueous NaHCO3 and once with brine, and then dried over MgSO4, filtered, and concentrated to give a white solid. Recrystallization from 4:1 hexanes ethyl acetate (250 mL) provided the title product as a powdery, white solid (10.5 g, 83% yield). 1H NMR: (CDCl3): δ 9.92 (s, 1H), 7.76 (d, J=7.5 Hz, 1H), 7.69-7.67 (m, 3H), 7.62-7.52 (m, 5H), 7.46-7.42 (m, 3H), 7.06 (br s, 1H). MS (electron impact): 369 (M+, 20), 249 (100).

reactant | 3-nitrobenzaldehyde | 34.4 mmol, 5.20 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | triethylamine | 76 mmol, 10.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4'-trifluoromethyl-biphenyl-2-carboxylic acid chloride | 34 mmol, 9.8 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 100 mL | CO | CH4O
product | 4'-Trifluormethyl-biphenyl-2-carboxylic acid(3-formyl-phenyl)amide | C(=O)C=1C=C(C=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C21H14F3NO2
